US04002640
A solution of 3.4 g of 2-nitro-5-mercaptoaniline in 20 ml. of DMF is treated with 0.5 g. of 100% sodium hydride, and 2.2 g. of chloromethyl-ethyl ether is added to the solution. After 30 minutes at 20-25° C, the solution is diluted with water and extracted with chloroform. Removal of the chloroform leaves 2-nitro-5-(ethoxymethylthio) aniline as an oil.

reactant | 2-nitro-5-mercaptoaniline | 3.4 g | [N+](=O)([O-])C1=C(N)C=C(C=C1)S | C6H6N2O2S
reactant | DMF | CN(C)C=O | C3H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | chloromethyl-ethyl ether | ClCOCC | C3H7ClO
solvent | water | O | H2O
product | 2-nitro-5-(ethoxymethylthio) aniline | [N+](=O)([O-])C1=C(N)C=C(C=C1)SCOCC | C9H12N2O3S
